US05358939
2-(2,4-dichlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide
To a 250 mL flask was charged 38.16 g (0.119 mole) of alpha-n-butyl-alpha(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-propanenitrile followed by 100 mL (0.63 moles) of 48% hydrobromic add. The mixture was stirred at reflux for 48 hours after which GLC indicated disappearance of the starting material. The reaction was cooled to room temperature and neutralized with concentrated ammonium hydroxide (100 mL) to pH 8 and then to neutral pH with concentrated hydrochloric acid. A gummy oil formed which was diluted with 200 mL of ethyl acetate. The organic phase (3×200 mL ethyl acetate) was washed with 100 mL of water (3×). The organic phase was dried and concentrated to give a tan solid which was recrystallized from ethyl ether. The product was filtered and gave 22.78 g (56.3% yield) of a solid, melting point 170°-172° C.

reactant | alpha-n-butyl-alpha(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-propanenitrile | 0.119 mole, 38.16 g | C(CCC)C(C#N)(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C15H16Cl2N4
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide | 22.78 g, 56.3% yield | ClC1=C(C=CC(=C1)Cl)C(C(=O)N)(CCCC)CN1N=CN=C1 | C15H18Cl2N4O
